US08609688B2
Synthesis of N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydro-2H-pyran-4-carboxamide
To a solution of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (220 mg) and triethylamine (0.182 mL) in N,N-dimethylacetamide (1.5 mL) chilled to 0° C. was added tetrahydro-2H-pyran-4-carbonyl chloride (prepared from tetrahydro-2H-pyran-4-carboxylic acid (156 mg) and oxalyl chloride (0.15 mL) in dichloromethane (2.5 mL)) dropwise. After being stirred at room temperature for 1 h, the reaction mixture was diluted with ethyl acetate and washed with 1 M citric acid aqueous solution (3 times) then brine. The organics were dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by column chromatography (10-100% ethyl acetate in hexanes) gave the product (267 mg, 81%).

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 220 mg | CC1(OB(OC1(C)C)C=1C=C(N)C=CC1)C | C12H18BNO2
reactant | triethylamine | 0.182 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 0.15 mL, 156 mg | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydro-2H-pyran-4-carboxamide | 267 mg, 81% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)C1CCOCC1)C | C18H26BNO4
